US09056873B2
A mixture of bis(triphenylphosphine)palladium chloride (14.01 mg, 0.020 mmol), tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (200 mg, 0.399 mmol), and 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (177 mg, 0.798 mmol) in dioxane (4 mL) and saturated aqueous NaHCO3 (1 mL) was heated to 100° C. in a Biotage Initiator microwave for 1 hour. The mixture was concentrated to give the intermediate, tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-4-(1-ethyl-1H-pyrazol-4-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate, which was subsequently dissolved in DCM (5 mL) and TFA (5 mL). The resulting solution was stirred at room temperature for 20 minutes, concentrated, and purified by preparatory HPLC, eluting with a gradient of 10-25% ACN (0.035% TFA) and water (0.05% TFA). The collected fractions were combined and dried to give a TFA salt of the title compound as a white solid (87 mg, 60%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.40 (t, J=7.3 Hz, 3H), 1.75-1.77 (m, 1H), 2.10-2.11 (m, 1H), 3.61-3.63 (m, 1H), 3.85-3.86 (m, 1H), 3.93-3.94 (m, 1H), 3.96-3.98 (m, 2H), 4.18 (q, J=7.32, 2H), 4.47-4.48 (m, 1H), 7.04-7.05 (m, 1H), 7.89-7.91 (m, 2H), 8.30 (s, 1H), 8.37 (s, 1H), 8.88 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C17H21FN6O2, 361. found, 361.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.399 mmol, 200 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
reactant | 1-ethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.798 mmol, 177 mg | C(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C11H19BN2O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
catalyst | bis(triphenylphosphine)palladium chloride | 0.020 mmol, 14.01 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-4-(1-ethyl-1H-pyrazol-4-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C=1C=NN(C1)CC)C(N(C2)C(=O)OC(C)(C)C)=O)F | C27H37FN6O6
